### PR TITLE
Incremental progress towards `schedule_corres`

### PR DESCRIPTION
**Pull request by MitchellBuckley**
This is incremental progress towards `schedule_corres`. The main contributions are:
* `setNextInterrupt_corres`
* `getReprogramTimer_corres`
* `setDomainTime_corres`
* `setConsumedTime_corres`
* `setCurSc_corres`
* `machine_op_lift_corres_trivial`
* `refillSingle_corres`

This also introduces `standard_sc` which might be useful, I'd appreciate some feedback on that.

### CODE REVIEW

**Comment by MitchellBuckley** [comment]
It only just occurred to me now that some of these may exist later in the proof stack. That seems unlikely, but I'll double-check tomorrow.

**Comment by mktnk3** [comment]
> It only just occurred to me now that some of these may exist later in the proof stack. That seems unlikely, but I'll double-check tomorrow.

That’s a good point. I guess it’ll be SchedContextInv_R if any exists.

File: proof/refine/ARM/StateRelation.thy [hunk 1]
```diff
@@ -281,9 +281,29 @@ lemma refills_heads_equal_valid_sched_context':
...
+(* Most sched contexts should satisfy these conditions. The lemma below (standard_sc_common_usage)
+   illustrates a common situation where these conditions hold.
+
+   It seems clear that an abbreviation of this kind is useful, but it's not clear exactly which
+   conditions it should contain. For instance, it does not contain "0 < scRefillMax sc" which one
+   may argue is equally standard.
+*)
+abbreviation (input) standard_sc where
+  "standard_sc sc \<equiv> scRefillMax sc \<le> length (scRefills sc) \<and> scRefillHead sc < scRefillMax sc \<and>
+                    scRefillCount sc \<le> scRefillMax sc \<and> 0 < scRefillCount sc"
```
Comment (mktnk3) [inline proof/refine/ARM/StateRelation.thy:297]: I like this and I have myself encountered situations where I could use something like this. It makes sense to leave it as an abbreviation till we are sure of what conditions it should contain, but we could make it a definition in the future, maybe with a different name, though. “standard_sc” sounds rather too unspecific to me. These are conditions we need for the `wrap_slice` function to make sense, which we use to represent the circular refill list/buffer. Maybe something that features “refills”, like`refills_cond`?

I am starting to think that it would make sense to include these conditions as part of `sc_relation` because the relation between `sc_refills` and `scRefills` won’t hold without them.

File: proof/refine/ARM/KHeap_R.thy [hunk 2]
```diff
@@ -4288,4 +4288,64 @@ global_interpretation set_simple_ko: typ_at_pres "set_simple_ko C ptr ep"
...
+   (length (refills_map (scRefillHead sca) (scRefillCount sca) (scRefillMax sca) (scRefills sca)) = Suc 0)
+    = (scRefillHead sca = refillTailIndex sca)"
+  apply (clarsimp simp: valid_sched_context'_def refillTailIndex_def refills_map_def)
+  apply (case_tac "scRefillCount sca = Suc 0"; simp)
+  apply (auto simp: Let_def)
+  done
+
+lemma refillSingle_corres:
+  "scp = scp' \<Longrightarrow>
+   corres (=) (sc_at scp) (sc_at' scp' and obj_at' standard_sc scp')
```
Comment (mktnk3) [inline proof/refine/ARM/KHeap_R.thy:4337]: This is just a comment but you can derive `sc_at’` from the `obj_at’` part.

File: spec/haskell/src/SEL4/Kernel/Thread.lhs [hunk 3]
```diff
@@ -352,12 +353,11 @@ An IPC operation may request that the scheduler switch to a specific thread.
 We check here that the candidate has the highest priority in the system.
 
 >         SwitchToThread candidate -> do
->             isSchedulable <- isSchedulable curThread
 >             when isSchedulable (tcbSchedEnqueue curThread)
 >
 >             idleThread <- getIdleThread
 >             targetPrio <- threadGet tcbPriority candidate
->             curPrio <- if idleThread == curThread then return 0 else threadGet tcbPriority curThread
+>             curPrio <- if (curThread /= idleThread) then (threadGet tcbPriority curThread) else (return 0)
```
Comment (mktnk3) [inline spec/haskell/src/SEL4/Kernel/Thread.lhs:360]: Just curious, did you have a specific reason for this change?

**Review by mktnk3 — APPROVED** [review]
Nice work! Only minor comments from me, maybe apart from the naming suggestion.

File: proof/refine/ARM/StateRelation.thy (hunk 1 above)
Comment (mktnk3) [reply proof/refine/ARM/StateRelation.thy:297]: Well, I guess it’s more of side conditions for valid sc_relation. We can introduce the notion of valid refills for the concrete side.

File: proof/refine/ARM/KHeap_R.thy [hunk 4]
```diff
@@ -4288,4 +4288,64 @@ global_interpretation set_simple_ko: typ_at_pres "set_simple_ko C ptr ep"
...
+  by (clarsimp simp: state_relation_def swp_def)
+
+lemma setCurSc_corres:
+  "sc = sc' \<Longrightarrow>
+   corres dc \<top> \<top> (modify (cur_sc_update (\<lambda>_. sc))) (setCurSc sc')"
+  apply (clarsimp simp: setCurSc_def, rule corres_modify)
+  by (clarsimp simp: state_relation_def swp_def)
+
+lemma machine_op_lift_corres_trivial:
+  "f = f' \<Longrightarrow> corres_underlying Id False True dc \<top> \<top> (machine_op_lift f) (machine_op_lift f')"
```
Comment (corlewis) [inline proof/refine/ARM/KHeap_R.thy:4315]: This seems like a little bit of a strange lemma to me. It's useful, but couldn't it follow more directly from `corres_underlying_trivial`?

File: proof/refine/ARM/Schedule_R.thy [hunk 5]
```diff
@@ -3864,6 +3865,114 @@ lemma awaken_corres:
...
+                  apply wpsimp
+                 apply wpsimp
+                apply (rule corres_return_eq_same)
+                apply (clarsimp simp: refills_heads_equal refill_map_def)
+               apply (rule corres_split [OF getReleaseQueue_corres])
+                 apply (rule corres_split [OF corres_if], simp)
+                     apply (rule corres_return_eq_same, simp)
+                    apply (rule corres_split_eqr)
+                       apply (rule corres_assert_opt_assume_l)
+                       apply (simp)
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:3936]: tiny nitpick
```suggestion
                       apply simp
```

File: proof/refine/ARM/Schedule_R.thy [hunk 6]
```diff
@@ -3864,6 +3865,114 @@ lemma awaken_corres:
...
+                         apply (rule corres_return_eq_same)
+                         apply (clarsimp simp: refills_heads_equal refill_map_def)
+                        apply wpsimp
+                       apply wpsimp
+                      apply (simp, rule get_tcb_obj_ref_corres)
+                      apply (clarsimp simp: tcb_relation_def)
+                     apply (wpsimp wp: get_tcb_obj_ref_wp)
+                    apply (wpsimp wp: threadGet_wp)
+                   apply (rule corres_machine_op)
+                   apply (simp only:, rule setDeadline_corres, simp)
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:3948]: Out of curiosity, what is that `simp only:` needed for?

File: proof/refine/ARM/Schedule_R.thy [hunk 7]
```diff
@@ -3864,6 +3865,114 @@ lemma awaken_corres:
...
+                  apply wpsimp+
+          apply (clarsimp simp: tcb_relation_def)
+         apply (wpsimp wp: get_tcb_obj_ref_wp)
+        apply (wpsimp wp: threadGet_wp)
+       apply wpsimp+
+   apply (subgoal_tac "release_queue s \<noteq> [] \<longrightarrow> active_sc_tcb_at (hd (release_queue s)) s")
+    apply (fastforce simp: cur_tcb_def pred_tcb_at_def vs_all_heap_simps obj_at_def is_sc_obj is_tcb
+                     elim: valid_sched_context_size_objsI)[1]
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:3956]: nitpick: unnecessary `[1]`

**Review by corlewis — APPROVED** [review]
Looks good!

File: spec/haskell/src/SEL4/Kernel/Thread.lhs (hunk 3 above)
Comment (MitchellBuckley) [reply spec/haskell/src/SEL4/Kernel/Thread.lhs:360]: It corresponds more closely to the other specifications.

File: proof/refine/ARM/KHeap_R.thy (hunk 4 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:4314]: Oops! Good point!

File: proof/refine/ARM/StateRelation.thy (hunk 1 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/StateRelation.thy:297]: How about `valid_refills'` or `standard_refills`?

File: proof/refine/ARM/Schedule_R.thy (hunk 6 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Schedule_R.thy:3948]: Good point, I've changed it to use `simp del: dc_simp`.

File: proof/refine/ARM/StateRelation.thy (hunk 1 above)
Comment (mktnk3) [reply proof/refine/ARM/StateRelation.thy:297]: I vote for `valid_refills’` :)

File: proof/refine/ARM/StateRelation.thy [hunk 8]
```diff
@@ -281,9 +281,29 @@ lemma refills_heads_equal_valid_sched_context':
...
+(* Most sched contexts should satisfy these conditions. The lemma below (valid_refills'_common_usage)
+   illustrates a common situation where these conditions hold.
+
+   It seems clear that an abbreviation of this kind is useful, but it's not clear exactly which
+   conditions it should contain. For instance, it does not contain "0 < scRefillMax sc" which one
+   may argue is equally standard.
+*)
+abbreviation (input) valid_refills' where
+  "valid_refills' sc \<equiv> scRefillMax sc \<le> length (scRefills sc) \<and> scRefillHead sc < scRefillMax sc \<and>
+                    scRefillCount sc \<le> scRefillMax sc \<and> 0 < scRefillCount sc"
```
Comment (mktnk3) [inline proof/refine/ARM/StateRelation.thy:297]: With its new name and all that, I would be happy to have this abbreviation without `(input)`. I have started to use this with projections and it seems to make sense. We can have this as a conjunct in `valid_sched_context’`. Not quite sure if we should handle this separately yet, although I realise we do have `valid_refills` as a notion separate from `valid_obj`.

**Review by mbrcknl — APPROVED** [review]

File: proof/refine/ARM/StateRelation.thy (hunk 8 above)
Comment (mktnk3) [reply proof/refine/ARM/StateRelation.thy:265]: Looking at the merged files, the previous version of this (`std_sc’)` is still sitting towards the end of this file. You originally called this one here as `standard_sc` and that made me think it was the same thing as your `std_sc’` from the previous PR.  But does this mean there was actually some duplication? Surely we don’t need both, do we?

Comment (mktnk3) [reply proof/refine/ARM/StateRelation.thy:265]: I can clean it up in my PR.

Comment (MitchellBuckley) [reply proof/refine/ARM/StateRelation.thy:265]: Any duplication is a mistake, I was only intending to use one notion.
